US07977338B2
A mixture of 0.535 g of (4-benzoimidazol-1-yl-phenyl)-acetic acid methyl ester and 2 ml of an 1N aqueous solution of LiOH in 2 ml of THF is stirred for 3 hours at 45° C. The mixture obtained is allowed to cool to rt and acidified to pH 5 by addition of 0.5 N aqueous HCl. A solid precipitates and is collected by vacuum filtration. (4-Benzoimidazol-1-yl-phenyl)-acetic acid is obtained. ES-MS: 253.1 [M+H]+; single peak at tR=2.36 min (System 1).

reactant | (4-benzoimidazol-1-yl-phenyl)-acetic acid methyl ester | 0.535 g | COC(CC1=CC=C(C=C1)N1C=NC2=C1C=CC=C2)=O | C16H14N2O2
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 0.5 N | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (4-Benzoimidazol-1-yl-phenyl)-acetic acid | N1(C=NC2=C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H12N2O2
